US07544704B2
4-(1H-Imidazol-2-ylethynyl)-5-methyl-3-phenyl-isoxazole
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (79 mg, 0.43 mmol) was converted (using 2-iodo-1H-imidazole instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 83 mg, 77%) which was obtained as an off-white solid. MS: m/e=250.2 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.43 mmol, 79 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 2-iodo-1H-imidazole | IC=1NC=CN1 | C3H3IN2
product | 4-(1H-Imidazol-2-ylethynyl)-5-methyl-3-phenyl-isoxazole | 83 mg, 77% | N1C(=NC=C1)C#CC=1C(=NOC1C)C1=CC=CC=C1 | C15H11N3O
